US07977331B1
To a solution of methyl 1-(2-tert-butoxycarbonylaminoethyl)-3-cyclohexyl-2-(2-formylphenyl)-1H-indole-6-carboxylate (450 mg, 0.89 mmol) in methanol (4 ml) was added borosodium hydride (50.0 mg, 1.32 mmol) under ice-cooling, and the mixture was stirred under ice-cooling for 1 hr. 1N Hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure to give methyl 1-(2-tert-butoxycarbonylaminoethyl)-3-cyclohexyl-2-(2-hydroxymethylphenyl)-1H-indole-6-carboxylate (440 mg, yield 97%).

reactant | methyl 1-(2-tert-butoxycarbonylaminoethyl)-3-cyclohexyl-2-(2-formylphenyl)-1H-indole-6-carboxylate | 0.89 mmol, 450 mg | C(C)(C)(C)OC(=O)NCCN1C(=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1)C1=C(C=CC=C1)C=O | C30H36N2O5
reactant | hydride | 1.32 mmol, 50.0 mg | [H-]
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
product | methyl 1-(2-tert-butoxycarbonylaminoethyl)-3-cyclohexyl-2-(2-hydroxymethylphenyl)-1H-indole-6-carboxylate | 440 mg, yield 97% | C(C)(C)(C)OC(=O)NCCN1C(=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1)C1=C(C=CC=C1)CO | C30H38N2O5
